US04678501
5-(1-METHYLETHYL)-2-(4-METHYL-2-PYRIDINYL)-1,3-CYCLOHEXANEDIONE
The procedure of Example 2 was used to prepare the title compound from ethyl 3-(1-methylethyl)-6-(4-methyl-2-pyridinyl)-5-oxohexanoate and sodium ethoxide using a 2 hour reflux period in ethanol. The product was liberated as an oil from the aqueous phase by adjusting the pH to about 5 and recovered by ether extraction. The ether extract was worked up giving a semi-solid which was recrystallized successively from ethyl acetate and isopropyl ether giving the product as a solid, mp 104.5°-106.5° C. The confirmatory elemental analysis is shown in Table II.

reactant | ethyl 3-(1-methylethyl)-6-(4-methyl-2-pyridinyl)-5-oxohexanoate | CC(C)C(CC(=O)OCC)CC(CC1=NC=CC(=C1)C)=O | C17H25NO3
reactant | sodium ethoxide | [O-]CC.[Na+]
product | 5-(1-METHYLETHYL)-2-(4-METHYL-2-PYRIDINYL)-1,3-CYCLOHEXANEDIONE | CC(C)C1CC(C(C(C1)=O)C1=NC=CC(=C1)C)=O | C15H19NO2
